US06251936B1
(R)-2-[2,6-Dibromo-4-(9-bromo-2,3-dimethyl-naphtho[2,3-b]thiophen-4-yl)-phenoxy]3-phenyl-propionic acid methyl ester
Diethylazodicarboxylate (0.262 mL, 1.67 mmol) was added dropwise to a stirred, room temperature solution of 2,6dibromo-4-(9-bromo-2,3-dimethyl-naphtho[2,3-b]thiophen-4-yl)-phenol (0.60 g, 1.11 mmol), and (S)-2-hydroxy-3-phenylpropionic acid, methyl ester (0.300 g, 1.67 mmol), triphenylphosphine (0.437 g, 1.67 mmol) and benzene (5 mL) and the solution was heated in an 80° C. oil bath for 6 h. Upon cooling to room temperature, the reaction mixture was diluted with ether and silica gel (30 mL) was added. The reaction mixture was concentrated and the silica adsorbate was flash chromatographed (95:5 petroleum ether:ethyl acetate) to provide the title compound as a white solid (0.76 g, 97%): mp 174-175° C.: NMR (DMSO-d6); δ8.21 (ddd, J=8,1,1 Hz, 1H), 7.74 (d, J=2 Hz, 1H), 7.73 (d, J=2 Hz, 1H),7.67 (ddd, J=8, 6, 1 Hz, 1H), 7.53 (ddd, J=8, 7, 1 Hz, 1H), 7,43 (d, J=8 Hz, 1H), 7.35-7.24 (m, 5H), 5.11 (dd, J=7, 6 Hz, 1H), 3.61 (s, 3H), 3.43 (dd, 13, 6 Hz, 1H), 3.40 (dd, 13, 7 Hz, 1H), 2.44 (d, J=1 Hz, 3H), 1.60 (d, J=1 Hz, 3H); MS (+FAB): 3 bromine isotope pattern 700(20%), 702 (70%), 704 (75%), 706 (25%); Anal. Calc. for C30H23Br3O3S: C, 51.23; H, 3.30; N, 0.00. Found: C, 51.52; H, 3.36; N, 0.12.

reactant | Diethylazodicarboxylate | 1.67 mmol, 0.262 mL | CCOC(=O)/N=N/C(=O)OCC | C6H10N2O4
reactant | 2,6dibromo-4-(9-bromo-2,3-dimethyl-naphtho[2,3-b]thiophen-4-yl)-phenol | 1.11 mmol, 0.60 g | BrC1=C(C(=CC(=C1)C1=C2C=CC=CC2=C(C=2SC(=C(C21)C)C)Br)Br)O | C20H13Br3OS
reactant | (S)-2-hydroxy-3-phenylpropionic acid, methyl ester | 1.67 mmol, 0.300 g | O[C@H](C(=O)OC)CC1=CC=CC=C1 | C10H12O3
reactant | triphenylphosphine | 1.67 mmol, 0.437 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | ether | CCOCC | C4H10O
solvent | benzene | 5 mL | C1=CC=CC=C1 | C6H6
product | (R)-2-[2,6-Dibromo-4-(9-bromo-2,3-dimethyl-naphtho[2,3-b]thiophen-4-yl)-phenoxy]3-phenyl-propionic acid methyl ester | 0.76 g, 97% | COC([C@@H](CC1=CC=CC=C1)OC1=C(C=C(C=C1Br)C1=C2C=CC=CC2=C(C=2SC(=C(C21)C)C)Br)Br)=O | C30H23Br3O3S
